US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-methylphenyl)-4,5,6,7-tetrahydroindole ##SPC73##
A mixture of 23 g. (0.1 mole) of 2-(p-methylphenacyl)cyclohexanone, 15.3 g. (0.1 mole) of 5-aminosalicylic acid and 100 ml. of glacial acetic acid was heated under reflux for 45 minutes, cooled and filtered. The collected solid was recrystallized from acetonitrile to provide 23.0 g. (66%) of yellow crystals, m.p. 212.5°-214.5°.

reactant | 2-(p-methylphenacyl)cyclohexanone | 0.1 mole | CC1=CC=C(C(CC2C(CCCC2)=O)=O)C=C1 | C15H18O2
reactant | 5-aminosalicylic acid | 0.1 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(4-methylphenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=C(C=C1)C | C22H21NO3
